Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Augmentin / Tetracyclines / Imitrex
 
Attending: ___.
 
Chief Complaint:
Episode of unresponsiveness followed by
left sided weakness/numbness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: The patient is a ___ with hx of migraine with L facial 
droop
here after mechanical fall with head strike followed by an
episode of unresponsiveness and persistent left sided
weakness/numbness. 

Pt was in normal state of health prior to today. She was playing
rugby today and was tackled at 3pm, leading to fall and head
strike on the right side of her head. No loss of consciousness,
headache, double vision, or symptoms at that time. 

She went out to eat an hour after this occurred with her rugby
teammates at around 4pm. She was sitting and bringing a cup of
water to her mouth with her left hand. After taking a sip, the
water just came out the front of her mouth. After the water came
out of her mouth, she tried to put her cup back down but instead
dropped it. Initially her friends thought she was joking around
but then for the next ___ seconds, she was staring forward and
did not respond to their questions. She remembers the water
coming out of her mouth and dropping the cup but does not
remember the staring episode. After she became responsive, she
knew where she was but when she touched her left hand with her
right, she realized that it was numb. EMS was called and on the
way to the hospital, she touched her left leg and realized this
was numb as well. When she tried to get out of her stretcher to
walk at the OHS, she felt weak in her left arm/leg and needed to
be carried for transfers. At around 5:30pm to 6pm, when her
parents arrived at the ___, her left sided weakness/numbness had
started improving and currently when evaluated at around 12AM,
she has no residual sensory complaints but still feels that her
left arm and leg are heavy. She has been able to walk but favors
the right leg due to her left leg feeling weaker - she is afraid
it will give-way if she puts her full weight on it. 

There is no report of left face weakness/numbness, no slurred
speech, no paraphasic errors or problems with speech
comprehension, no word finding difficulty, no involuntary
movements of her left face/arm/leg. 
She had brief lightheadedness in the restaurant before transfer
to hospital. 

In the car on the way to the hospital she had a dull/aching
headache involving her whole head with no associated
photo/phonophobia which was different from her normal migraines
which have scotoma, photophobia, phonophobia, and are sharp in
character. 

At the OHS, NCHCT and CTA H and N unremarkable, she was given 
ASA
81mg x1 with resolution of her headache. +Mild nausea in the 
OHS.

She denies any pain throughout any of this - specifically asked
about neck pain. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. 

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain. 
Denies vomiting, diarrhea, abdominal pain. No dysuria. 

 
Past Medical History:
PMH/PSH:
- Complex Migraine with aura- (L facial droop). 
- Head trauma - At 17 months, she fell out a window and hit her
forehead sustaining a laceration requiring sutures 
- S/p Tonsillectomy

 
Social History:
___
Family History:
Migraine in mother, maternal grandfather and maternal
grandmother. 
Uncle with ___ tumor that was benign that caused visual field
deficits, was removed and then required placement of shunt. 

 
Physical Exam:
***************
ADMISSION EXAM
***************

PHYSICAL EXAMINATION
Vitals: 98.1F, HR 92 (Occasionally goes to 100s when
nervous/getting blood drawn), 137/83, RR 16, 100% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity
Abdomen: soft, NT/ND
Extremities: L ankle slightly swollen compared to R - she 
reports
prior ankle injury on the left.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation. Intermittent R ptosis that her
parents insist is due to fatigue and within the realm of
baseline. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and is strong bilaterally.

-Motor: Normal bulk, tone throughout. L pronator drift with
finger curling. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  4+   ___   5  4+  5   5    5- 5     5     5   5
R  5    ___   ___   5    5  5     5     5   5

-Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor on the right and extensor vs
withdrawal on the left. No ankle clonus. 

-Coordination: Mild inaccuracy on finger/nose/finger with left
hand within realm of weakness. RAM normal. HKS normal.  

-Gait: Good initiation. Limps, favoring her right leg. Otherwise
Narrow-based. I did not make her tandem. Romberg absent.

***************
DISCHARGE EXAM
***************

Unchanged except as noted below:

-Motor: L pronator drift with finger curling, minimal at 
baseline but exacerbated when the patient is distracted. 

  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   5  4+  5   5    5  5     5     5   5
R  5    ___   ___   5    5  5     5     5   5

Plantar response was flexor on the right and extensor on the 
left. 

-Coordination: Mild inaccuracy on finger tapping and some 
dysmetria/overshoot on mirroring.

-Gait: Good initiation. Limps, favoring her right leg. Can 
perform stress gaits well (walking on toes/heels, tandem)

 
Pertinent Results:
___ WBC-5.5 RBC-4.71 Hgb-13.5 Hct-41.7 MCV-89 Plt ___
___ Neuts-51.9 ___ Monos-12.2 Eos-1.8 Baso-1.0 Im 
___ AbsNeut-4.59 AbsLymp-2.91 AbsMono-1.08* AbsEos-0.16 
AbsBaso-0.09*

___ 09:45AM BLOOD Glucose-PND UreaN-PND Creat-PND Na-PND 
K-PND Cl-PND HCO3-PND
___ 09:45AM BLOOD Calcium-PND Phos-PND Mg-PND Cholest-PND

___ ALT-18 AST-31 AlkPhos-61 TotBili-0.4

___ 09:45AM BLOOD %HbA1c-PND
___ 09:45AM BLOOD Triglyc-PND HDL-PND
___ 09:45AM BLOOD TSH-PND

___ 09:45AM BLOOD Lupus-PND
___ 09:45AM BLOOD ___
___ 09:45AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 09:45AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND

___ BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

___ CT and CTA at OSH

___ EEG - This is an abnormal routine EEG due to the 
presence of brief  bursts of theta frequency slowing occurring 
independently in the bilateral  temporal regions, accentuated 
with hyperventilation. This may be indicative of  focal 
subcortical dysfunction and can be seen in association with 
migraine. Recommend repeat testing after two weeks of headache 
freedom. 

___ CXR: No acute cardiopulmonary process.

___
MR HEAD W & W/O CONTRAST; MRA ___ W/O CONTRAST; MRA NECK ___ 
CONTRAST
IMPRESSION: 
1. Multiple areas of slow diffusion in the right caudate body, 
right centrum semiovale, right insula, right parietal and right 
occipital lobes with associated FLAIR hyperintensity compatible 
with acute to subacute infarcts in the right MCA/ PCA territory 
with distribution suggestive of embolic etiology. 
2. Minimal medial luminal irregularity of the proximal right 
internal carotid artery just distal to the carotid bifurcation, 
corresponding to a 
triangular-shaped filling defect on prior CTA, with equivocal 
associated area of T1 hyperintensity representing either focal 
dissection or mural thrombus and could potentially be a source 
for embolic infarct. 
3. Remainder of the cervical vasculature is patent without 
significant 
stenosis or occlusion. 
4. No hemorrhage or enhancing mass. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with hx of complex migraine (L 
facial droop), who was transferred to ___ from ___ after 
mechanical fall with head strike followed by an episode of 
unresponsiveness and persistent left sided weakness/numbness. 
Admission exam was significant for L sided pronator drift and 
weakness in LUE/LLE with possible upgoing toe on the L. On 
discharge exam, patient has regained full strength but still 
demonstrates L sided pronator drift and upgoing L toe.
CTA from OSH demonstrated an equivocal filling defect in the R 
ICA immediately distal to the carotid bifurcation. MRI showed 
multiple small, embolic-appearing infarcts in the R MCA/ACA 
distribution, and MRA confirmed a filling defect at the same 
location of the R ICA, and was read as intramural thrombus vs 
small dissection. Given the mechanism, the etiology was felt to 
likely be small dissection rather than intramural thrombus 
without dissection, and she was treated with ASA 81 and will 
follow up with stroke neurology. 
She was monitored on continuous telemetry without evidence of 
tachyarrhythmia. 
Stroke risk factors were checked, but were unremarkable, 
including HbA1c 5.4%, LDL 65. TSH mildly elevated at 6.1. 
Hypercoagulable workup was sent including ___, 
Beta-2-glycoprotein Ab, and anticardiolipin Ab (all negative). 
EEG was without epileptiform discharges. She had been taking 
hormonal contraception, and she was instructed that this can 
increase risk of stroke and that she should stop taking it and 
should never use hormonal contraception nor hormonal therapy at 
future menopause. 

===============================================
Transitional Issues: 
[ ] PCP: monitor TSH given mildly elevated value during this 
admission. She should never be prescribed hormonal therapy or 
hormonal contraception. 

===============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 65) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 25 mg PO BID 
2. Tri-Sprintec (28) (norgestimate-ethinyl estradiol) 
0.18/0.215/0.25 mg-35 mcg (28) oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Topiramate (Topamax) 25 mg PO BID  
3.Outpatient Occupational Therapy
L hand weakness
ICD9: 434.91
Provider: ___, MD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multiple acute ischemic strokes
Right extracranial carotid dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 
You were admitted after a staring spell followed by left-sided 
weakness. We were not initially sure which of several 
possibilities had caused this, and so we did tests to look for 
causes. We did an EEG, a ___ wave test, to look for signs of 
seizure, and it was normal. We did an MRI to look for strokes or 
blood vessel problems, which showed several small strokes, as 
well as a tear in the inner lining of your right carotid artery. 
This is called a dissection.  An ACUTE ISCHEMIC STROKE is a 
condition where a blood vessel providing oxygen and nutrients to 
the ___ is blocked by a clot. The ___ is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the ___ from being deprived of its blood supply 
can result in a variety of symptoms.  
We think that the dissection was caused by your fall during 
rugby, and the a clot formed at the site of the dissection, of 
which pieces broke off and traveled to the ___ to cause the 
strokes. The great news is that the problems caused by your 
strokes are relatively minor, mainly some very subtle weakness 
of your left hand. We expect this to improve with time. 
Outpatient occupational therapy will help you focus on 
strengthening your hand. 
To help prevent strokes while the dissection heals, take a baby 
aspirin (81 mg) daily. 

It is very important that you stop using any form of systemic 
hormonal birth control. These hormones make the blood more 
likely to clot, and will increase the risk of you having another 
stroke. You should never take systemic hormonal birth control, 
and in the future never use hormone supplementation when you 
reach menopause. 

You should not play rugby or other intense contact sports until 
you are seen in follow-up by a Neurologist. 

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___